US07345180B2
3-Methylcrotonic acid (12.0 g) was dissolved in pyridine (40 ml), and benzyl amine (12.8 g) was added thereto, and the mixture was stirred for 3 hours at 120° C. The reaction mixture was cooled to room temperature, and after acetone was added to the resulting suspension, crystals were collected by filtration and washed. The crystals were dried under reduced pressure to give 3-benzylamino-3-methylbutanoic acid (10.3 g, Y.:42%) as colorless crystals.

reactant | 3-Methylcrotonic acid | 12.0 g | CC(=CC(=O)O)C | C5H8O2
reactant | benzyl amine | 12.8 g | C(C1=CC=CC=C1)N | C7H9N
reactant | acetone | CC(=O)C | C3H6O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3-benzylamino-3-methylbutanoic acid | 10.3 g, 42% | C(C1=CC=CC=C1)NC(CC(=O)O)(C)C | C12H17NO2
